Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
Pacemaker Placement

 
History of Present Illness:
___ with ___ s/p cardioversion ___, metastatic 
colorectal cancer to liver, papillary thyroid cancer s/p 
lobectomy, grade 1 pancreatic NET, bipolar d/o now presenting 
with neurologic findings and bradycardia.

He underwent a cardioversion on ___ from ___ to NSR. Two 
days later he had onset of fatigue and slurred speech, and was 
noted to have reverted back to ___. He was seen on ___ by 
cardiologist Dr. ___ in ___, where EKG showed 
___ with ventricular bigeminy. He was transferred to urgent 
care where he was noted to have slurring of speech, impaired 
rapid hand movements and finger to nose. 

On arrival to the ED, he denied focal weakness or numbness, 
slurred speech, headache, chest pain, shortness of breath, 
abdominal pain, or vomiting. He stated that his symptoms are 
intermittent.

In the ED, initial vital signs were notable for: 
97.6 86 120/71 18 96% RA 
However he developed bradycardia to ___ with ___ second pauses. 

Cardiology was consulted and noted that bradycardia may be in 
setting of recent cardioversion, and recommended holding beta 
blocker and monitoring on telemetry.

Neurology was consulted and recommended admission to medicine, 
___ and subsequently MRI brain w/wo and MRA H/N.
 
On arrival to the MICU, he endorses no acute complaints except 
feeling like he is still in ___.
 
Past Medical History:
- s/p cardioversion for Aflutter on ___
- metastatic colorectal cancer with liver mets
  - undergoing sterotactic body radiotherapy with RadOnc
- thyroid cancer s/p lobectomy in ___
- grade 1 neuroendocrine tumor in pancreas
- papillary thyroid cancer s/p total thyroidectomy ___ and 
___
- right adrenal adenoma
- bipolar disorder
- hypertension
- erectile dysfunction
- chronic back problems and sciatica s/p laminectomy ___
- s/p left hip replacement ___
- s/p closure ASD ___ 
 
Social History:
___
Family History:
Mother - DVT
___ any family history of strokes.
Children healthy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T: 98.1 BP: 90/52 P: 43 R: 18 O2:  100RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Irregular, bradycardic, no m/r/g
ABD: soft, ___, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: Per documented neurology exam, mild left triceps 
weakness, asterixis, mild word finding difficulties.

DISCHARGE PHYSICAL EXAM
VS: T ___ BP ___ HR ___ RR 18 O2 ___ on RA
WEIGHT: 94.5 kg - 94.5 - 93.2 - 92.3 - 92.2kg
I/O:  ___.
GENERAL: Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVP estimated 9 cm above RA 
CARDIAC: bradycardic, regular rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.  
LUNGS: few bibasilar crackles
ABDOMEN: Soft, ___. Stoma prolapsed ___ 
into ostomy bag, pink and "normal appearing" per Pt.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
ADMISSION LABS:
___ 04:15PM BLOOD ___ 
___ Plt ___
___ 04:15PM BLOOD ___ ___
___ 04:15PM BLOOD ___ 
___
___ 04:15PM BLOOD ___
___ 03:04AM BLOOD ___ 
___
___ 04:15PM BLOOD ___
___ 04:15PM BLOOD ___
___ 04:15PM BLOOD ___
___ 10:25PM BLOOD ___

NOTABLE LABS:
___ 06:29AM BLOOD ___
___ 06:29AM BLOOD ___
___ 04:15PM BLOOD ___

MICRO:
BCX ___ NGTD
UCX ___ NG

IMAGING:
CXR ___
Patchy bibasilar atelectasis.

NCCT HEAD ___
No evidence for acute intracranial abnormalities.

MRI BRAIN ___:
1. ___ acute right frontal lobe infarct. 
2. No clear visualization of the cervical left vertebral artery 
suggesting 
occlusion from the origin. Visualization of the intracranial 
left vertebral artery is likely from retrograde flow from the 
basilar artery, but it is difficult to determine how much of the 
distal/intracranial left vertebral artery is actually preserved. 

3. No focal enhancing lesions to suggest intracranial 
metastasis. 
4. Paranasal sinus disease. 

CXR ___:
Comparison to ___.  Status post implantation of 5 
right pectoral pacemaker. 1 lead projects over the right atrium 
and 1 over the right ventricle.  The sternal wires and the left 
pectoral port are in stable position.  No pneumothorax.  No 
pulmonary edema.  Borderline size of the heart. 

PACER INFORMATION:
Date of Implant: ___
Device brand/name/Model: ___ ___ MRI A2DR01
A lead brand/model/implant date: ___ / ___ / ___
RV lead brand/model/implant date: ___ / ___ 

DISCHARGE LABS:
___ 06:55AM BLOOD ___ 
___ Plt ___
___ 06:55AM BLOOD ___ ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD ___ 
___
___ 06:55AM BLOOD ___
 
Brief Hospital Course:
***MICU Course ___
___ with ___ s/p cardioversion ___, metastatic 
colorectal cancer to liver, papillary thyroid cancer s/p 
lobectomy, grade 1 pancreatic NET, bipolar d/o now presenting 
with neurologic findings and bradycardia.
#Bradycardia:
Unclear etiology. Per cardiology he may have ___ 
bradycardia. He also has underlying RBBB and LAFB raising 
possibility of conduction disease. No symptoms and initial 
troponin negative reassuring against MI. He received atropine 
and dopamine gtt in the ED. Given acute urine retention, may 
also be related to increased vagal tone. Elevated lithium levels 
may also cause bradyarrhythmia.  He was initiated on dopamine 
which provided improvement in HR's.  He was then trialed off 
dopamine and had sustained rates in the ___.  EP was consulted 
and recommended 24 hours off dopamine to eval HR.  He did take 
metoprolol morning of ___.
#Neurologic deficits:
He had question of new neurologic findings, though in retrospect 
these may have been intermittent. Per neurology his language and 
left sided weakness deficits could be due to multifocal embolic 
strokes. He does have history of multiple neoplasms.  Neurology 
consulted and recommended imaging studies for evaluation. 
#Afib: on Coumadin, pt INR supratherapeutic on admission so AC 
held.

CCU COURSE:
___ with ___ s/p cardioversion ___, metastatic 
colorectal cancer to liver, HFpEF and bipolar d/o now presenting 
with bradycardia I/s/o conduction disease and possible change in 
mental status, admitted to CCU for monitoring of bradycardia x 
24 hours after discontinuation of dopamine gtt. Now s/p ___ 
pacemaker placement with improvement of bradycardia. 

# Bradycardia: 
The patient presented with bradycardia of unclear etiology; 
could be ___ bradycardia vs. conduction disease 
given underlying RBBB and LAFB. No anginal symptoms and 
troponins negative x2, suggesting against MI. Heart rate was 
subsequently stable. Pacemaker was placed. Beta blockade was 
held given bradycardia, then restarted on discharge. The patient 
was discharged for a ___ course of Keflex.

# R Frontal stroke:
# Neurologic deficits: 
No focal symptoms on CCU admission, possibly transient ischemia 
i/s/o bradycardia. MRI showing acute R frontal stroke, but 
neurology of opinion that this does not explain clinical 
picture. The patient should continue anticoagulation 
indefinitely for secondary stroke. LDL was 74. Would recommend 
treatment including statin to optimize LDL<100. A1C was 4.7. The 
patient should ___ in the stroke clinic in ___ months.

# ___: S/P cardioversion ___. Now in NSR with rare bursts 
of PAF. Metoprolol resumed on discharge. Warfarin was held, then 
restarted on discharge. He should ___ with repeat INR on 
___ with adjustment of warfarin dose as appropriate. 

# HFpEF: Patient appeared euvolemic on arrival to CCU. Continued 
on home torsemide.

# Hypertension: 
Lisinopril and amlodipine were held on discharge given 
hypotension and bradycardia. Consider restarting in the 
outpatient setting with caution.

# Renal function: Cr 1.45 in ___. Remained appears at 
baseline during hospitalization.

# Urinary Retention:
___ in clinic for urinary retention. Consider urology 
referral if persistent. Discharged on tamsulosin. 

# Transient Hypercalcemia: 
Transient hypercalcemia with level of 11 during hospitalization. 
Vit D 44. PTH 66. Subsequent values normal. Would recheck 
calcium in the outpatient setting. 

# Bipolar disorder: Continued on ___

# Hypothyroidism: TSH low but T4 normal. Continued levothyroxine 
at home dose. 

TRANSITIONAL:
[ ] Pacemaker placed: 
Device brand/name/Model: ___ ___ MRI A2DR01
A lead brand/model/implant date: ___ / ___
RV lead brand/model/implant date: ___ / ___ 
[ ] ___ course of Keflex for ___ placement
[ ] Would recommend treatment including statin to optimize 
LDL<100
[ ] The patient should ___ in the stroke clinic in ___ 
months.
[ ] ___ in clinic for urinary retention. Consider urology 
referral if persistent. Discharged on tamsulosin. 
[ ] Lisinopril and amlodipine were held on discharge given 
hypotension and bradycardia. Consider restarting in the 
outpatient setting with caution.
[ ] Started on tamsulosin while inpatient for urinary retention.
[ ] He should ___ with repeat INR on ___ with adjustment 
of warfarin dose as appropriate
[ ] Would recheck calcium in the outpatient setting. 
[ ] Please provide referral for ___ Stroke Clinic within ___ 
months for f/u a TIA while inpatient.

DISCHARGE WT: 92.2 kg
DISCHARGE Cr: 1.2

# CODE: Full
# CONTACT/HCP: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Warfarin 8.75 mg PO 3X/WEEK (___) 
2. Warfarin 7.5 mg PO 4X/WEEK (___) 
3. Acetaminophen 1000 mg PO BID:PRN Pain - Mild 
4. sildenafil 50 mg oral DAILY:PRN 
5. Allopurinol ___ mg PO DAILY 
6. amLODIPine 5 mg PO DAILY 
7. Calcium 500 + D (calcium ___ D3) 500 
mg(1,250mg) -200 unit oral QID 
8. Vitamin D ___ UNIT PO DAILY 
9. Gabapentin 900 mg PO BID 
10. Levothyroxine Sodium 200 mcg PO 6X/WEEK (___) 
11. Levothyroxine Sodium 300 mcg PO 1X/WEEK (___) 
12. Lisinopril 40 mg PO DAILY 
13. Lithium Carbonate 1200 mg PO QAM 
14. Metoprolol Succinate XL 25 mg PO DAILY 
15. Pantoprazole 40 mg PO Q24H 
16. prochlorperazine maleate 10 mg oral Q6H:PRN 
nausea/cyberknife 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 2 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*8 Capsule Refills:*0 
2.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
3.  Warfarin 7.5 mg PO DAILY16  
4.  Acetaminophen 1000 mg PO BID:PRN Pain - Mild  
5.  Allopurinol ___ mg PO DAILY  
6.  Calcium 500 + D (calcium ___ D3) 500 
mg(1,250mg) -200 unit oral QID  
7.  Gabapentin 900 mg PO BID  
8.  Levothyroxine Sodium 200 mcg PO 6X/WEEK (___)  

9.  Levothyroxine Sodium 300 mcg PO 1X/WEEK (___)  
10.  Lithium Carbonate 1200 mg PO QAM  
11.  Metoprolol Succinate XL 25 mg PO DAILY  
12.  Torsemide 10 mg PO DAILY  
13.  Vitamin D ___ UNIT PO DAILY  
14.Outpatient Lab Work
Please draw ___
___: I48.91 Chronic Atrial Fibrillation
CONTACT: ___, MD
Fax: ___
15.Outpatient Physical Therapy
Home physical therapy 
ICD 10 code: I48 (atrial fibrillation)
16.Outpatient Occupational Therapy
Home occupational therapy 
ICD 10 code: I48 (atrial fibrillation)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Bradycardia
Right Frontal Stroke
Atrial Fibrillation

SECONDARY:
Hypertension
Chronic Kidney Disease (stage unspecified)
Bipolar Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ because you had concerning neurologic 
symptoms and a slow heart rate. While you were here, we placed a 
pacemaker to make sure your heart rates remain safe. We also did 
an MRI of your brain. The MRI showed a ___ stroke, but based 
on the locations, our neurologists did not believe that this 
stroke was causing your symptoms. You improved while you were 
here.

When you leave the hospital, please continue to take all of your 
medications as directed. Please ___ with your primary 
doctor and well as our neurologists. Please weight yourself 
every morning, call MD if weight increases more than 3 lbs. 
___ call MD or return to the emergency department immediately 
if you develop chest pain, shortness of breath, or any other 
concerning symptoms.

Thank you for allowing us to care for you here,
Your ___ Care Team

 
Followup Instructions:
___